US06787550B1
Description 6: 2-Ethoxy-4-aminobenzoic acid
A suspension of methyl 2-ethoxy-4-acetamidobenzoate (50 g, 211 mmol) in aqueous solution of NaOH (15% W/W, 200 ml) was gently refluxed for 16 hours. The resulting pale brown solution was allowed to cool to room temperature and then further cooled in an ice water bath. Concentrated HCl (37% w/w) was added until the solution reached a pH of 6. The solid precipitated from the solution was filtered under vacuum, dried at 50° C. to give 38.3 g of the title compound (yield 100%).

reactant | methyl 2-ethoxy-4-acetamidobenzoate | 211 mmol, 50 g | C(C)OC1=C(C(=O)OC)C=CC(=C1)NC(C)=O | C12H15NO4
reactant | HCl | Cl | ClH
solvent | NaOH | 200 ml | [OH-].[Na+]
product | 2-Ethoxy-4-aminobenzoic acid | 38.3 g, yield 100% | C(C)OC1=C(C(=O)O)C=CC(=C1)N | C9H11NO3
